US05294734
1 g (2.17 mmol) of 4-(1-acetylpiperidin-4-yl)-5-diisopropylphosphono-2-formylamino-pent-3-enoic acid ethyl ester is heated under reflux in 20 ml of 6N hydrochloric acid for 8 hours. After concentration by evaporation, the residue is dissolved in 25 ml of ethanol. 3 ml of propylene oxide are then added, the mixture is stirred for 2 hours at room temperature and for one hour with ice cooling, and then the suspension that has formed is filtered off with suction. 2-amino-4-(piperidin-4-yl)-5-phosphono-pent-3-enoic acid having a melting point of 212° (decomp.) is obtained.

reactant | 4-(1-acetylpiperidin-4-yl)-5-diisopropylphosphono-2-formylamino-pent-3-enoic acid ethyl ester | 2.17 mmol, 1 g | C(C)OC(C(C=C(CP(=O)(OC(C)C)OC(C)C)C1CCN(CC1)C(C)=O)NC=O)=O | C21H37N2O7P
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 2-amino-4-(piperidin-4-yl)-5-phosphono-pent-3-enoic acid | NC(C(=O)O)C=C(CP(=O)(O)O)C1CCNCC1 | C10H19N2O5P
